US08247556B2
Step A Preparation of N-(4,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinolin-7-yl)-2-fluoro-nicotinamide
To a mixture of 2-fluoro-nicotinoyl chloride (283 mg, 1.79 mmol) and 7-amino-4,4-dimethyl-3,4-dihydro-2H-isoquinolin-1-one (340 mg, 1.79 mmol) in CH2Cl2 (10 mL) was added NaHCO3 (573 mg, 7.16 mmol). The resulting mixture was stirred for 30 min at RT and filtered. The filtrate was concentrated and purified on silica gel column to yield the title compound as white solid. MS (ES+): 314 (M+H)+. Calc'd for C17H16FN3O2—313.12

reactant | 2-fluoro-nicotinoyl chloride | 1.79 mmol, 283 mg | FC1=C(C(=O)Cl)C=CC=N1 | C6H3ClFNO
reactant | 7-amino-4,4-dimethyl-3,4-dihydro-2H-isoquinolin-1-one | 1.79 mmol, 340 mg | NC1=CC=C2C(CNC(C2=C1)=O)(C)C | C11H14N2O
reactant | NaHCO3 | 7.16 mmol, 573 mg | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4,4-dimethyl-1-oxo-1,2,3,4-tetrahydro-isoquinolin-7-yl)-2-fluoro-nicotinamide | CC1(CNC(C2=CC(=CC=C12)NC(C1=C(N=CC=C1)F)=O)=O)C | C17H16FN3O2
